US07132428B2
a) N-(3-methyl-5-phenyl-1H-pyrazole-4-yl)-4-trifluoromethyl-benzamide (BD1)
361 mg of 4-trifluoromethylbenzoyl chloride were added dropwise to a solution of 300 mg of 3-methyl-5-phenyl-1H-pyrazol-4-ylamine in 5 ml of pyridine at room temperature. The reaction mixture was stirred for 16 h and then concentrated. The residue was extracted into dichloromethane and washed with 0.5M hydrochloric acid, at which point the title compound precipitated.

reactant | 4-trifluoromethylbenzoyl chloride | 361 mg | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
reactant | 3-methyl-5-phenyl-1H-pyrazol-4-ylamine | 300 mg | CC1=NNC(=C1N)C1=CC=CC=C1 | C10H11N3
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | N-(3-methyl-5-phenyl-1H-pyrazole-4-yl)-4-trifluoromethyl-benzamide | CC1=NNC(=C1NC(C1=CC=C(C=C1)C(F)(F)F)=O)C1=CC=CC=C1 | C18H14F3N3O
